US09315489B2
Stage 73.1 6-Bromo-N-(4-(trifluoromethoxy)phenyl)picolinamide
The title compound was prepared in an analogous fashion to that described in Stage 59.1 using 6-bromopicolinic acid and 4-(trifluoromethoxy)aniline to afford the title compound as a white powder. UPLC-MS (Condition 2) tR=1.27 min, m/z=361.0/363.0 [M+H]+.

reactant | 6-bromopicolinic acid | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 4-(trifluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 6-Bromo-N-(4-(trifluoromethoxy)phenyl)picolinamide | BrC1=CC=CC(=N1)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C13H8BrF3N2O2
